US09126931B2
9-Hydroxy-3-chloro-8-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one
9-Bromo-3-chloro-8-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one (Compound S7-1, 30 mg, 0.06 mmol) was dissolved in the mixture solvent of water.dioxane (1:1) (0.5 mL), added with tris(benzylidenacetone dipalladium)chloroform complex (3.1 mg, 0.05 eq.), 2-di-tert-butylphosphino-2′,4′,6′-triisopropylbiphenyl (2.5 mg, 0.1 eq.) and KOH (0.5 N aqueous solution 180 μL, 1.5 eq.), and stirred at 60° C. for 12 hr. After cooling, the reaction solution was concentrated under reduced pressure, and the resulting residues were purified by HPLC to obtain the title compound (white solid, 4.6 mg).

reactant | 9-Bromo-3-chloro-8-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one | 0.06 mmol, 30 mg | BrC1=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)Cl)(C)C)C=C1OC[C@@H]1OC(OC1)(C)C | C24H23BrClNO4
reactant | dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
reactant | 2-di-tert-butylphosphino-2′,4′,6′-triisopropylbiphenyl | 2.5 mg, 0.1 eq. | C(C)(C)(C)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C(C)(C)C | C29H45P
reactant | KOH | 0.5 N, 180 μL, 1.5 eq. | [OH-].[K+]
solvent | water | O | H2O
product | 9-Hydroxy-3-chloro-8-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one | 4.6 mg | OC1=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)Cl)(C)C)C=C1OC[C@@H]1OC(OC1)(C)C | C24H24ClNO5
